US07985862B2
5-chloro-1-[3-chloro-4-(methylsulfonyl)benzyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
A solution of 2-amino-5-chloronicotinamide (200 mg) and 4-(bromomethyl)-2-chloro-1-(methylsulfonyl)benzene (430 mg) in DMF (3 ml) was stirred at 100° C. for 4 hr. The mixture was allowed to cool to room temperature, ethyl acetate was added, and the precipitated crystals were collected by filtration. The obtained crystals were dissolved in 1N sodium hydroxide solution, and the solution was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=9:1→1:0). The obtained yellow solid was dissolved in methanol, 4N hydrogen chloride-ethyl acetate solution was added, and the precipitated crystals were collected by filtration, and recrystallized to give the title compound (65 mg).

reactant | 2-amino-5-chloronicotinamide | 200 mg | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 4-(bromomethyl)-2-chloro-1-(methylsulfonyl)benzene | 430 mg | BrCC1=CC(=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-[3-chloro-4-(methylsulfonyl)benzyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | 65 mg | Cl.ClC=1C=C(C(N(C1)CC1=CC(=C(C=C1)S(=O)(=O)C)Cl)=N)C(=O)N | InChI=1S/C14H13Cl2N3O3S.ClH/c1-23(21,22)12-3-2-8(4-11(12)16)6-19-7-9(15)5-10(13(19)17)14(18)20;/h2-5,7,17H,6H2,1H3,(H2,18,20);1H
